US08293768B2
Synthesis of (R)—N-(2-hydroxy-2-phenylethyl)-4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with (R)-(−)-2-amino-1-phenylethanol, the title compound was obtained as a white powder in 67% yield: mp 149-151° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.38-7.16 (m, 9H), 6.24 (br s, 1H), 4.92-4.89 (m, 1H), 4.44 (s, 2H), 4.28-4.02 (m, 2H), 3.85-3.41 (m, 2H), 3.57-3.38 (m, 3H), 2.54 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 163.6, 157.5, 155.4, 152.8, 148.9, 141.7, 134.3, 129.7, 128.5, 127.8, 125.8, 121.4, 117.6, 73.5, 47.8, 47.2, 42.0, 41.7, 17.1; MS (ES+) m/z 521.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C16H14F3N3O4S
reactant | (R)-(−)-2-amino-1-phenylethanol | NC[C@H](O)C1=CC=CC=C1 | C8H11NO
product | (R)—N-(2-hydroxy-2-phenylethyl)-4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide | 67% yield | O[C@@H](CNC(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O)C)C1=CC=CC=C1 | C24H23F3N4O4S
